US04902335
A mixture of 5-amino-6-fluoro-3-(5-methyl-1,2,4-oxadiazol-3-ylmethyl)-2(3H)-benzothiazolone (2.8 g) and acetic acid (20 ml) was admixed with 3,4,5,6-tetrahydrophthalic anhydride (1.6 g), stirred at a temperature of 20° to 30° C. for 30 minutes, and then heated under refluxing for 2 hours. The reaction mixture was distilled under a reduced pressure to remove the acetic acid therefrom, and the residue was worked up by chromatography, wherein a silica gel column was used together with an eluant. comprising a tetrahydrofuran/toluene mixture (a 1:3 mixture), so that the aimed compound, i.e. 6-fluoro-3-(5-methyl-1,2,4-oxadiazol-3-ylmethyl)-5-(4,5,6,7-tetrahydro-2H-isoindole-1,3-dion-2-yl)-2(3H)-benzothiazolone (2.9 g) was obtained. m.p. 198°-199° C.

reactant | 5-amino-6-fluoro-3-(5-methyl-1,2,4-oxadiazol-3-ylmethyl)-2(3H)-benzothiazolone | 2.8 g | NC=1C(=CC2=C(N(C(S2)=O)CC2=NOC(=N2)C)C1)F | C11H9FN4O2S
reactant | 3,4,5,6-tetrahydrophthalic anhydride | 1.6 g | C1(C2=C(C(=O)O1)CCCC2)=O | C8H8O3
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 6-fluoro-3-(5-methyl-1,2,4-oxadiazol-3-ylmethyl)-5-(4,5,6,7-tetrahydro-2H-isoindole-1,3-dion-2-yl)-2(3H)-benzothiazolone | 2.9 g | FC1=CC2=C(N(C(S2)=O)CC2=NOC(=N2)C)C=C1N1C(C=2CCCCC2C1=O)=O | C19H15FN4O4S
